US07393867B2
Method 1: 6-Phenylsulfanyl-4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide (Ia)
Treat 4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide (75 mg, 0.45 mmol) with NaH (45 mg, 60% in oil, 1.12 mmol, 2.5 eq) in N,N-dimethylformamide (1.3 ml) at room temperature under nitrogen for 35 minutes. Add diphenyldisulfide (137 mg, 1.4 eq) and heat the mixture at 70° C. overnight. Dilute the mixture with brine (2 ml) and extract with ethyl acetate. Concentrate the ethyl acetate solution to give an oil and purify by chromatography on silica gel (ISCO silica cartridge, 4 gm, elute with methanol 0-10% in methylene chloride) to afford the title compound (55 mg).

reactant | 4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide | 0.45 mmol, 75 mg | S1C=CC=2NC(=CC21)C(=O)N | C7H6N2OS
reactant | NaH | 1.12 mmol, 45 mg, 2.5 eq | [H-].[Na+]
reactant | diphenyldisulfide | 137 mg, 1.4 eq | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | N,N-dimethylformamide | 1.3 ml | CN(C=O)C | C3H7NO
solvent | brine | 2 ml | [Cl-].[Na+].O
product | 6-Phenylsulfanyl-4H-thieno[3,2-b]pyrrole-5-carboxylic acid amide | 55 mg | C1(=CC=CC=C1)SC=1C2=C(NC1C(=O)N)C=CS2 | C13H10N2OS2
